resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.981728
R2 0 n2 1.002509
R3 0 n4 0.980785
R4 n1 n3 0.136788
R5 n1 n5 1.008602
R6 n2 n3 0.991001
R7 n2 n6 1.009905
R8 n3 n7 0.987459
R9 n4 n5 1.019941
R10 n4 n6 0.983091
R11 n5 n7 1.018261
R12 n6 n7 1.012224
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
